US06545009B1
In the same manner as in Example 74, 4-trifluoromethylthiobenzamide was reacted with ethyl 4-bromoacetylbenzoate to obtain ethyl 4-[2-(4-trifluoromethylphenyl)-4-thiazolyl)benzoate. The product was recrystallized from ethanol. Yield: 56%. Pale yellow prisms. Melting point: 163 to 164° C.

reactant | 4-trifluoromethylthiobenzamide | FC(C1=CC=C(C(=S)N)C=C1)(F)F | C8H6F3NS
reactant | ethyl 4-bromoacetylbenzoate | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
product | ethyl 4-[2-(4-trifluoromethylphenyl)-4-thiazolyl)benzoate | Yield: 56% | FC(C1=CC=C(C=C1)C=1SC=C(N1)C1=CC=C(C(=O)OCC)C=C1)(F)F | C19H14F3NO2S
